US08609660B2
Toluene (10 mL) was added to a mixture of rac-4-(3-bromo-phenyl)-4-methyl-4,7-dihydro-pyrazolo[1,5-a]pyrazin-6-ylamine (0.39 g, 1.28 mmol), tris(dibenzylideneacetone)dipalladium(0) (0.12 g, 0.13 mmol), rac-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (0.24 g, 0.38 mmol) and sodium tert-butoxide (0.22 g, 2.3 mmol) in a sealed tube and under nitrogen at room temperature. The mixture was flushed with nitrogen for a few minutes and then benzophenone imine (0.43 mL, 2.56 mmol) was added and the mixture was stirred at 100° C. for 2 hours. After cooling the mixture was diluted with water and extracted with DCM. The organic layer was separated, dried (MgSO4), filtered and the solvents evaporated in vacuo. The crude product was purified by flash column chromatography (silica; 7 M solution of ammonia in methanol in DCM 0/100 to 3/97). The desired fractions were collected and concentrated in vacuo to yield rac-4-[3-(benzhydrylidene-amino)-phenyl]-4-methyl-4,7-dihydro-pyrazolo[1,5-a]pyrazin-6-ylamine (0.37 g, 70% yield) as a yellow foam.

reactant | rac-4-(3-bromo-phenyl)-4-methyl-4,7-dihydro-pyrazolo[1,5-a]pyrazin-6-ylamine | 1.28 mmol, 0.39 g | BrC=1C=C(C=CC1)C1(C=2N(CC(=N1)N)N=CC2)C | C13H13BrN4
reactant | rac-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.38 mmol, 0.24 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | sodium tert-butoxide | 2.3 mmol, 0.22 g | CC(C)([O-])C.[Na+]
reactant | benzophenone imine | 2.56 mmol, 0.43 mL | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
solvent | water | O | H2O
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.13 mmol, 0.12 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | Toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | rac-4-[3-(benzhydrylidene-amino)-phenyl]-4-methyl-4,7-dihydro-pyrazolo[1,5-a]pyrazin-6-ylamine | 0.37 g, 70% yield | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NC=1C=C(C=CC1)C1(C=2N(CC(=N1)N)N=CC2)C | C26H23N5
